US04322426
315 g of oxycodone was refluxed with 1600 ml of acetic anhydride for one hour. After cooling the mixture to 50°, acetic anhydride and acetic acid were removed with the rotary evaporator. The solid remaining was dissolved in water and the solution was basified to pH9 with ammonia. The precipitated product was filtered off, washed with water and vacuum dried to yield 357 g of 14-acetyloxycodone (m.p. 215°-216°).

reactant | oxycodone | 315 g | CN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)OC | C18H21NO4
reactant | acetic anhydride | 1600 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 14-acetyloxycodone | 357 g | CC(=O)O[C@]12CCC(=O)[C@H]3[C@@]14CCN([C@@H]2CC5=C4C(=C(C=C5)OC)O3)C | C20H23NO5
